US05705531
To a solution of 5.00 g of (1S,3aS,7aR)-1-acetoxymethyl-3a-hydroxy-7a-methyl-5-perhydroindenone (see Prepn. 3) in 50 ml of methanol cooled at 0° C., 0.77 g of NaBH4 were added and the mixture was stirred for 1 hr. It was then diluted with 10 ml of 5% aqueous NaH2PO4.H2O, concentrated in vacuo and extracted with ethyl acetate. The organic layer was dried over sodium sulfate and evaporated to dryness under reduced pressure. The residue was purified by flash-chromatography (SiO2) with n-hexane/chloroform/acetone 4:3:3 as the eluant to give 2.18 g of (1S,3aS,5S,7aR)-1-acetoxymethyl-7a-methylperhydroinden-3a,5-diol as a white foam.

reactant | (1S,3aS,7aR)-1-acetoxymethyl-3a-hydroxy-7a-methyl-5-perhydroindenone | 5.00 g | C(C)(=O)OC[C@H]1CC[C@@]2(CC(CC[C@]12C)=O)O | C13H20O4
reactant | NaBH4 | 0.77 g | [BH4-].[Na+]
solvent | methanol | 50 ml | CO | CH4O
product | (1S,3aS,5S,7aR)-1-acetoxymethyl-7a-methylperhydroinden-3a,5-diol | 2.18 g | C(C)(=O)OC[C@H]1CC[C@@]2(C[C@H](CC[C@]12C)O)O | C13H22O4
